US05135932
6-[2-[2-[3-(4-(2-Isobutoxy-ethyl)phenoxy)-2-hydroxypropylamino]ethyl]benzimidazol-5-yl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone
Prepared analogously to Example 1 from 1-[4-(2-isobutoxy-ethyl)-phenoxy]-2,3-epoxypropane and 6-[2-(2-aminoethyl)benzimidazol-5-yl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone.

reactant | 1-[4-(2-isobutoxy-ethyl)-phenoxy]-2,3-epoxypropane | C(C(C)C)OCCC1=CC=C(OCC2CO2)C=C1 | C15H22O3
reactant | 6-[2-(2-aminoethyl)benzimidazol-5-yl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | NCCC=1NC2=C(N1)C=CC(=C2)C=2C(CC(NN2)=O)C | C14H17N5O
product | 6-[2-[2-[3-(4-(2-Isobutoxy-ethyl)phenoxy)-2-hydroxypropylamino]ethyl]benzimidazol-5-yl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | C(C(C)C)OCCC1=CC=C(OCC(CNCCC=2NC3=C(N2)C=CC(=C3)C=3C(CC(NN3)=O)C)O)C=C1 | C29H39N5O4
